US08022068B2
d) (S)-1-[(2R,4R,5R)-4-[4-((S)-3-Methoxy-2-methyl-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-propan-2-ol
To a stirred solution of 1.0 mmol of 1-[(2R,4R,5R)-4-[4-((S)-3-methoxy-2-methyl-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-propan-2-one in 10 ml of THF are added 2.0 mmol of borane tetrahydrofuran complex (1M in THF) at RT. The reaction mixture is stirred for 3 h, quenched with 60 ml of MeOH and concentrated under reduced pressure. The resulting diastereomeric mixture is separated by flash chromatography (SiO2 60 F) to afford the title compound which is identified based on its Rf-value.

reactant | 1-[(2R,4R,5R)-4-[4-((S)-3-methoxy-2-methyl-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-propan-2-one | 1.0 mmol | COC[C@@H](COCC1=CC=C(C=C1)[C@H]1C[C@@H](N(C[C@@H]1OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)CC(C)=O)C | C40H54N2O8S
reactant | borane tetrahydrofuran | 2.0 mmol, 1M | O1CCCC1.B
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (S)-1-[(2R,4R,5R)-4-[4-((S)-3-Methoxy-2-methyl-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-propan-2-ol | COC[C@@H](COCC1=CC=C(C=C1)[C@H]1C[C@@H](N(C[C@@H]1OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)C[C@H](C)O)C | C40H56N2O8S
